US04342781
N-Decyl-3-phenyl-3-(4-aminophenyl)propenamide
To a stirred solution of 5.6 g. of N-decyl-3-phenyl-3-(4-nitrophenyl)propenamide in 80 ml. of glacial acetic acid, at 85° C., was added, portionwise, during 20 minutes, 3.85 g. of iron powder. The reaction was exothermic and the temperature was between 85° and 90° C. during the addition. After the addition, the reaction mixture was filtered and the solids were washed with further hot acetic acid. The combined acetic acid solutions were evaporated in vacuo and the residue was partitioned between ethyl acetate and water. The ethyl acetate layer was removed, washed with water, and dried. Evaporation in vacuo gave an oil which solidified. The solid was recrystallized from isopropyl ether, giving 2.3 g. of the title compound, m.p. 90°-100° C.

reactant | N-decyl-3-phenyl-3-(4-nitrophenyl)propenamide | C(CCCCCCCCC)NC(C=C(C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O | C25H32N2O3
catalyst | iron | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-Decyl-3-phenyl-3-(4-aminophenyl)propenamide | C(CCCCCCCCC)NC(C=C(C1=CC=C(C=C1)N)C1=CC=CC=C1)=O | C25H34N2O
